* C:\Projects\Github\arduino_adjustable_power_supply\simulations\final_output.asc
XU1 N009 N007 N006 LT1117
C1 N007 0 10µ V=33 Irms=0 Rser=0.3 Lser=0 mfg="KEMET" pn="T495D106M035AS" type="Tantalum"
V1 N001 0 4.25
R2 N007 N009 121
R3 N009 0 154
I1 N007 0 10
XU2 N005 N004 N003 0 N011 N012 N004 LT1578
C2 N003 N005 33µ
C3 N006 0 10µ
C4 N011 0 100p
C5 N004 0 10µ
D1 0 N005 1N5818
D2 N006 N003 1N914
R4 N006 N012 8.6K
R5 N012 0 5K
L1 N005 N006 15µH
XU3 N008 N004 N001 N010 N001 N001 N001 N002 0 LT3473
L2 N001 N002 6.8µ
C6 N008 0 .47µ
C7 N001 0 4.7µ
R1 N008 N010 2000k
R6 N010 0 100k
C8 N004 0 2.2µ
.model D D
.lib C:\Users\emuno\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 300u
.lib LT1117.lib
.lib LT1578.sub
.lib LT3473.sub
.backanno
.end
